US07326790B2
4-Nitro benzoic acid can be reacted with hydrazine to give 4-nitrobenzoic acid hydrazide. This acid hydrazide can be reacted with 2,4-dichlorobenzaldehyde to yield the corresponding acid hydrazone adduct of 2,6-dichlorobenzoldehyde. Treatment of this material with acetic anhydride according to the method of J. Chem. Research Synopsis, 1995, 88-89 can lead to the corresponding N-acetylated 4,5-dihydrooxadiazole. Basic hydrolysis can yield the N-deacetylated product which can be reduced with tin dichloride or with iron powder and ammonium chloride to yield the corresponding aniline. This racemic aniline can be treated with 2,2-dichloroacetyl chloride and triethylamine to yield (±)-2,2-dichloro-N-[4-[5-(2,6-dichlorophenyl)-2-(4,5-dihydrooxadiazolyl)phenyl]acetamide.

reactant | 4-Nitro benzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | hydrazine | NN | H4N2
product | 4-nitrobenzoic acid hydrazide | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
